US04611074
2-Chloroethyl (Methylsulfonyl)methanesulfonate; One step Synthesis.
A solution of 133 g (1.32 mol.) of triethylamine in 400 ml of anhydrous acetonitrile was cooled to -30° to -40° C., and a solution of 100 g (0.88 mol.) of methanesulfonyl chloride in anhydrous acetonitrile (67 ml) was added dropwise at a rate that prevented the temperature from rising above -30° C. The mixture was stirred at -30° to -40° C. for 1 hour, and a solution of 35.4 g of 2-chloroethanol in anhydrous acetonitrile (30 ml) was added. The resulting mixture was stirred for 2 hours at -30° to -40° C. and then was filtered to separate triethylamine hydrochloride. The latter material was washed with ethyl acetate, the washings were combined with the filtrate, and the organic solution was concentrated in vacuo to an oil. A solution of the residual oil in ethyl acetate (1200 ml) was washed quickly with two portions (2×200 ml) of dilute sodium chloride solution and then with two portions (2×200 ml) of saturated sodium chloride solution, dried with magnesium sulfate, filtered, and concentrated in vacuo. The residual solid (70 g) was dissolved in methylene chloride (450 ml), the solution was filtered and diluted slowly with cyclohexane (450 ml). The mixture, protected from atmospheric moisture, was allowed to stand at room temperature for about an hour and was then stored at low temperatures (about 5° C.) overnight. The precipitate was collected by filtration, washed with cyclohexane, and dried in vacuo over phosphorus pentoxide: yield, 58.7 g (56%); m.p. 60°-62° C.; IR (cm-1, medium and strong bands) 3040, 3025, 2990 s, 2930, 2935 sh, 1465, 1430, 1415, 1390, 1370 s, 1320 s, 1240, 1200, 1185 s, 1175 s, 1165 s, 1125, 1070, 990 s, 955 s, 915 s, 870 s, 790 s, 765, 755, 665, 605 sh, 600, 525 s, 505, 465 s, 420; 1H NMR (300.6 MHz, CDCl3, Me4Si as internal reference), δ3.26 (s, CH3), 3.80 (t, CH2Cl), 4.65 (t, OCH2), 4.67 (s, SCH2S). Anal. Calcd. for C4H9ClO5S2C, 20.30; H, 3.83. Found: C, 20.26; H, 4.00.

reactant | triethylamine | 1.32 mol, 133 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.88 mol, 100 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-chloroethanol | 35.4 g | ClCCO | C2H5ClO
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
solvent | acetonitrile | 67 ml | C(C)#N | C2H3N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 2-Chloroethyl (Methylsulfonyl)methanesulfonate | CS(=O)(=O)CS(=O)(=O)OCCCl | C4H9ClO5S2
